US07982036B2
Synthesis of 3-[6-(3-bromophenylamino)-pyrimidin-4-ylamino]-phenylamine:
A mixture of (6-chloro-pyrimidin-4-yl)-(3-bromo-phenyl)-amine (300 mg, 1.1 mmol) and benzene-1,3-diamine (300 mg, 2.75 mmol) in 3 mL of n-BuOH was heated in a sealed tube to 150° C. for 16 hr. Solvent was removed by vacuum evaporation and the crude product was purified by flash chromatography on silica gel with EtOAc/DCM solvent system to afford 255 mg (65% yield) of the title compound as a yellow solid. MS (m/z): MH+=356, 358.

reactant | (6-chloro-pyrimidin-4-yl)-(3-bromo-phenyl)-amine | 1.1 mmol, 300 mg | ClC1=CC(=NC=N1)NC1=CC(=CC=C1)Br | C10H7BrClN3
reactant | benzene-1,3-diamine | 2.75 mmol, 300 mg | C1(=CC(=CC=C1)N)N | C6H8N2
solvent | n-BuOH | 3 mL | CCCCO | C4H10O
product | 3-[6-(3-bromophenylamino)-pyrimidin-4-ylamino]-phenylamine | 255 mg, 65% yield | BrC=1C=C(C=CC1)NC1=CC(=NC=N1)NC=1C=C(C=CC1)N | C16H14BrN5
